US07253171B2
(S)-2-Amino-3-[4-([2,6]naphthyridin-1-yloxy)phenyl] propionic acid methyl ester
A solution of (S)-2-tert-butoxycarbonylamino-3-[4-([2,6]naphthyridin-1-yloxy)phenyl]propionic acid methyl ester (271 mg, 0.64 mmol) in dichloromethane (7.5 ml) was treated with trifluoroacetic acid (7.5 ml) and stirred at room temperature for 2 h. The volatiles were removed in vacuo and the residue was partitioned between EtOAc (60 ml) and saturated aqueous NaHCO3 (25 ml). The phases were separated and the aqueous layer re-extracted with EtOAc (3×25 ml). The combined organic extracts were dried (MgSO4) and evaporated in vacuo to afford the title compound (206 mg, 100%) as an oil that was used in the next step without further purification.

reactant | (S)-2-tert-butoxycarbonylamino-3-[4-([2,6]naphthyridin-1-yloxy)phenyl]propionic acid methyl ester | 0.64 mmol, 271 mg | COC([C@H](CC1=CC=C(C=C1)OC1=NC=CC2=CN=CC=C12)NC(=O)OC(C)(C)C)=O | C23H25N3O5
reactant | trifluoroacetic acid | 7.5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 7.5 ml | ClCCl | CH2Cl2
product | (S)-2-Amino-3-[4-([2,6]naphthyridin-1-yloxy)phenyl] propionic acid methyl ester | 206 mg, 100% | COC([C@H](CC1=CC=C(C=C1)OC1=NC=CC2=CN=CC=C12)N)=O | C18H17N3O3
